US07407962B2
4-(4-Phenylamino-[1,3,5]triazin-2-yl)-1H-pyrrole-2-carboxylic acid:
A 5 mL flask was charged with 4-(4-phenylamino-[1,3,5]triazin-2-yl)- 1 -(2,4,6-trimethyl-benzenesulfonyl)-1H-pyrrole-2-carboxylic acid methyl ester (0.12 mmol, 55 mg) in methanol (2 mL) and sodium hydroxide (0.5 mL, 1 N). The resulting mixture was heated at 80° C. for 5 hours then the solvent was evaporated under vacuum. The crude was dried under high vacuum. HPLC, Rt=4.1 min, FIA, ES+=282.1, ES−=280.2

reactant | 4-(4-phenylamino-[1,3,5]triazin-2-yl)- 1 -(2,4,6-trimethyl-benzenesulfonyl)-1H-pyrrole-2-carboxylic acid methyl ester | 0.12 mmol, 55 mg | COC(=O)C=1N(C=C(C1)C1=NC=NC(=N1)NC1=CC=CC=C1)S(=O)(=O)C1=C(C=C(C=C1C)C)C | C24H23N5O4S
solvent | methanol | 2 mL | CO | CH4O
solvent | sodium hydroxide | 1 N, 0.5 mL | [OH-].[Na+]
product | 4-(4-Phenylamino-[1,3,5]triazin-2-yl)-1H-pyrrole-2-carboxylic acid | C1(=CC=CC=C1)NC1=NC(=NC=N1)C=1C=C(NC1)C(=O)O | C14H11N5O2
